US04020081
B. Preparation of 2-Amino-4-dodecylphenol
A mixture of 61.4 g. (0.2 mole) of 2-nitro-4-dodecylphenol and 1 g. of 5% of palladium on carbon slurried in 100 ml of 95% ethanol was placed in a 250 ml hydrogenation bottle. The bottle was stoppered under an atmosphere of 45 psi of hydrogen and shaken at room temperature. The hydrogen was replenished during reaction. After 4 hours the hydrogen uptake was complete. The mixture then was filtered through a sintered glass funnel and the filtrate was stripped of solvent under reduced pressure. The yield of product, 2-amino-4-dodecylphenol, was quantitative. Infrared, nuclear magnetic resonance (nmr) and gas liquid chromatography (glc) analyses confirmed its structure and purity.

reactant | 2-nitro-4-dodecylphenol | 0.2 mole | [N+](=O)([O-])C1=C(C=CC(=C1)CCCCCCCCCCCC)O | C18H29NO3
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Amino-4-dodecylphenol | NC1=C(C=CC(=C1)CCCCCCCCCCCC)O | C18H31NO
